US06872718B1
2,3,6,7-Tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-5H-furo[2,3-f]indole-5-carbaldehyde
To a solution of 2,3-dihydro-5-hydroxy-2,2,4,7-tetramethyl-6-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde (1.90 g, 6.95 mmol) in dichloromethane (20 ml) and methanol (10 ml) were added calcium carbonate (0.90 g, 9.0 mmol) and benzyltrimethylammonium dichloroiodate (2.66 g, 7.64 mmol), and stirred for 15 minutes at room temperature. The reaction mixture was filtered and concentrated under reduced pressure. To the residue was added a 5% aqueous solution of sodium hydrogen sulfite (15 ml), and extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine and water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to obtain 2.40 g of the title compound.

reactant | 2,3-dihydro-5-hydroxy-2,2,4,7-tetramethyl-6-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde | 6.95 mmol, 1.90 g | OC=1C(=C2CC(N(C2=C(C1CC(=C)C)C)C=O)(C)C)C | C17H23NO2
reactant | calcium carbonate | 9.0 mmol, 0.90 g | C([O-])([O-])=O.[Ca+2]
reactant | benzyltrimethylammonium dichloroiodate | 7.64 mmol, 2.66 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | 2,3,6,7-Tetrahydro-2-(iodomethyl)-2,4,6,6,8-pentamethyl-5H-furo[2,3-f]indole-5-carbaldehyde | 2.40 g, Yield: 86% | ICC1(CC=2C(=C(C=3CC(N(C3C2C)C=O)(C)C)C)O1)C | C17H22INO2
